US04032527
A mixture of 2-(2-methyl-4-(diethylamino)benzoyl)-benzoic acid (25 g.), N,N,N', N'-tetramethyl-m-phenylenediamine (13.2 g.) and acetic anhydride (75 g.) was heated (to 95° C.) during one hour, then refluxed with dilute hydrochloride acid (32 g. concentrated hydrochloric acid plus 160 ml. water) during one and one-half hours. The resulting mixture was poured onto ice and the pH was adjusted to 6 with sodium hydroxide. Recrystallization of the resulting product afforded 3-(2,4-bis(dimethylamino)-phenyl-3-(2-methyl-4-(diethylamino)phenyl)phthalide (I: X= (CH3)2N, Y2 = CH3, Y4 = (CH3CH2)2N, Z4 = Z5 = Z6 = Z7 = H) in a first crop from toluene (m.p. 204°-206° C.) and in a second crop from a mixture of toluene and hexane (m.p. 191°-195° C.).

reactant | 2-(2-methyl-4-(diethylamino)benzoyl)-benzoic acid | 25 g | CC1=C(C(=O)C2=C(C(=O)O)C=CC=C2)C=CC(=C1)N(CC)CC | C19H21NO3
reactant | N,N,N', N'-tetramethyl-m-phenylenediamine | 13.2 g | CN(C1=CC(=CC=C1)N(C)C)C | C10H16N2
reactant | acetic anhydride | 75 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | hydrochloride | 160 ml, 32 g | Cl | ClH
product | 2,4-bis(dimethylamino)-phenyl-3-(2-methyl-4-(diethylamino)phenyl)phthalide | CN(C1=C(C=CC(=C1)N(C)C)C1(OC(=O)C2=CC=CC=C12)C1=C(C=C(C=C1)N(CC)CC)C)C | C29H35N3O2
